US06762191B2
8-(2,4-Dichlorophenyl)-6-(propylthio)-1,2,3,4,4a,9b-hexahydro[1]benzofuro[3,2-c]pyridine, 252
tert-Butyl 8-(2,4-dichlorophenyl)-6-(propylthio)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate (0.090 g, 0.182 mmol) was dissolved in CH2Cl2 (5 mL). Trifluoracetic acid (0.3 mL, 0.182 mmol) was added and the reaction mixture was stirred at rt under N2 for 2.5 h when all the starting material was consumed. The reaction mixture was cooled to 0° C. and 5M NaOH (10 mL) was added. The reaction mixture was partitioned between CH2Cl2 and water. The aqueous layer was extracted with CH2Cl2 (2×). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude was purified by chromatography (first eluting with 3:1 Hexane:EtOAc, and then eluting with 2:6:92 conc. NH4OH:CH3OH:CH2Cl2 to elute the product). Example 252 (0.070 g) was obtained in 97% yield. HRMS (FAB) calcd for C20H21CL2NOS +H1 394.0799, found 394.0797.

reactant | tert-Butyl 8-(2,4-dichlorophenyl)-6-(propylthio)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate | 0.182 mmol, 0.090 g | ClC1=C(C=CC(=C1)Cl)C=1C=C(C2=C(C1)C1CN(CCC1O2)C(=O)OC(C)(C)C)SCCC | C25H29Cl2NO3S
reactant | Trifluoracetic acid | 0.182 mmol, 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-(2,4-Dichlorophenyl)-6-(propylthio)-1,2,3,4,4a,9b-hexahydro[1]benzofuro[3,2-c]pyridine | ClC1=C(C=CC(=C1)Cl)C=1C=C(C2=C(C1)C1CNCCC1O2)SCCC | C20H21Cl2NOS
